US07423159B2
A mixture of 1-methyl-1H-pyrazole-4-carbaldehyde (2.59 g), sodium hydride (60% in oil, 1.13 g), ethyl diethylphosphonoacetate (5.8 g) and N,N-dimethylformamide (50 ml) was stirred at room temperature for 2 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give ethyl (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylate (2.72 g, 64%) as crystals from a fraction eluted with hexane-ethyl acetate (1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 43-44° C.

reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 2.59 g | CN1N=CC(=C1)C=O | C5H6N2O
reactant | sodium hydride | 1.13 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 5.8 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl (2E)-3-(1-methyl-1H-pyrazol-4-yl)acrylate | 2.72 g, 64% | CN1N=CC(=C1)/C=C/C(=O)OCC | C9H12N2O2
